US04886813
(a) Preparation of N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine t-butyl ester (α- and β-isomers)
In 20 ml of HMPA were dissolved 5.9 g of S-heptyl-L-cysteine ethyl ester and 5.5 g of 2-bromopropionic acid t-butyl ester. A 3.4 ml quantity of triethylamine was added to the solution. The mixture was stirred at room temperature for 24 hours. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The extract was sufficiently washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was separated and purified by silica gel column chromatography (a 1:3 mixture of ether and n-hexane as an eluent), producing the α-isomer of the title compound as a colorless oil from the first eluate. Yield 2.8 g.

reactant | S-heptyl-L-cysteine ethyl ester | 5.9 g | C(C)OC([C@@H](N)CSCCCCCCC)=O | C12H25NO2S
reactant | 2-bromopropionic acid t-butyl ester | 5.5 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | HMPA | 20 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N[C@@H](CSCCCCCCC)C(=O)OCC)C)=O | C19H37NO4S
